US07307084B2
17. (2,3-Dimethyl-8-phenyl-3,6,7,8-tetrahydro-chromeno[7,8-d]imidazol-5-yl)methanol
A solution of 250 mg (0.7 mmol) 2,3-dimethyl-8-phenyl-3,6,7,8-tetrahydro-chromeno[7,8-d]imidazole-5-carboxylic acid ethyl ester in 10 ml tetrahydrofuran was cooled to 0° C. and 927 μl (0.93 mmol) lithium aluminium hydride solution (1 M in THF) were added dropwise. The temperature was raised to room temperature and the reaction stirred for 1 h. To the reaction were cautiously added 1.5 ml water and 1.5 ml 6 M sodium hydroxide solution and the mixture was extracted with dichloromethane. The organic layers were dried over magnesium sulphate and concentrated in vacuo. The residue was purified by column chromatography on silica gel (toluene/dioxane=1:1) and crystallized with diisopropyl ether to afford 101 mg (45%) of the title compound as a beige solid. m.p. 279°-281° C.

reactant | 2,3-dimethyl-8-phenyl-3,6,7,8-tetrahydro-chromeno[7,8-d]imidazole-5-carboxylic acid ethyl ester | 0.7 mmol, 250 mg | C(C)OC(=O)C=1C=2CCC(OC2C2=C(N(C(=N2)C)C)C1)C1=CC=CC=C1 | C21H22N2O3
reactant | lithium aluminium hydride | 0.93 mmol, 1 M, 927 μl | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 1.5 ml | O | H2O
reactant | sodium hydroxide | 6 M, 1.5 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | (2,3-Dimethyl-8-phenyl-3,6,7,8-tetrahydro-chromeno[7,8-d]imidazol-5-yl)methanol | 101 mg, 45% | CC1=NC2=C(N1C)C=C(C=1CCC(OC12)C1=CC=CC=C1)CO | C19H20N2O2
